US05559111
d) 4-Methoxy-3-(3-methoxypropyloxy)-bromobenzene
66.0 g of potassium carbonate and 3-methoxy-1-bromopropane are added at room temperature to a solution of 64.6 g of 5-bromo-2-methoxyphenol in 350 ml of acetonitrile. The reaction mixture is stirred under reflux for 14 hours. After removal of the solvent by evaporation, 1200 ml of ice/water are added to the residue and extraction is carried out with ether. The organic extracts are washed with saturated sodium chloride solution, dried over magnesium sulfate and concentrated by evaporation. Distillation under a high vacuum yields the title compound: Re (hexane/ethyl acetate=4:1)=0.33; b.p.=126°-129° C./1.4 mbar; HPLC Rt =16.38 minutes; MS (M+)=274, 276.

reactant | potassium carbonate | 66.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-methoxy-1-bromopropane | COCCCBr | C4H9BrO
reactant | 5-bromo-2-methoxyphenol | 64.6 g | BrC=1C=CC(=C(C1)O)OC | C7H7BrO2
solvent | acetonitrile | 350 ml | C(C)#N | C2H3N
product | 4-Methoxy-3-(3-methoxypropyloxy)-bromobenzene | COC1=C(C=C(C=C1)Br)OCCCOC | C11H15BrO3
